US06384220B2
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.31M stock solution, 7.13 mmol) was cooled to −78° C. and then treated with a solution of (4-benzyloxy-phenyl)-acetic acid methyl ester (1.66 g, 6.48 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (16.1 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (1.50 g, 7.13 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 48 h. At this time, the reaction mixture was quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (10 mL). This mixture was poured into water (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with a saturated aqueous lithium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 98/2 hexanes/ethyl acetate) afforded 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid methyl ester (1.90 g, 86.6%) as a white wax: mp 55-57° C.; EI-HRMS m/e calcd for C22H26O3 (M+) 338.1881 found 228.1878.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-benzyloxy-phenyl)-acetic acid methyl ester | 6.48 mmol, 1.66 g | COC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C16H16O3
reactant | iodomethylcyclopentane | 7.13 mmol, 1.50 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 16.1 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid methyl ester | 1.90 g, 86.6% | COC(C(CC1CCCC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H26O3
